US07691893B2
(1S,6R)-6-(3,4-dichlorophenyl)-3-methyl-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane hydrochloride (E13)
(1S,6R)-6-(3,4-dichlorophenyl)-3-methyl-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane (E12, 16 mg) was treated with hydrochloric acid 1.0M in diethyl ether (0.064 mL). 0.5 mL of diethyl ether were added and a colourless solid formed. Organic phase was removed after decantation of the solid. Colourless solid obtained as a 5:1 mixture of isomers due protonation on the nitrogen atom (16 mg).

reactant | (1S,6R)-6-(3,4-dichlorophenyl)-3-methyl-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane | 16 mg | ClC=1C=C(C=CC1Cl)[C@]12CCN(C[C@@]2(C1)COC)C | C15H19Cl2NO
reactant | hydrochloric acid | 1.0M | Cl | ClH
solvent | diethyl ether | 0.064 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 0.5 mL | C(C)OCC | C4H10O
product | (1S,6R)-6-(3,4-dichlorophenyl)-3-methyl-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@]12CCN(C[C@@]2(C1)COC)C | InChI=1S/C15H19Cl2NO.ClH/c1-18-6-5-15(8-14(15,9-18)10-19-2)11-3-4-12(16)13(17)7-11;/h3-4,7H,5-6,8-10H2,1-2H3;1H/t14-,15-;/m0./s1
